US07368578B2
A mixture of 4-methoxymethoxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde (3.00 g), 4-benzyloxybenzyltriphenylphosphonium chloride (6.58 g), potassium carbonate (1.84 g) and N,N-dimethylformamide (50 mL) was stirred at room temperature for 15 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, v/v). A mixture of the obtained colorless oil, 5% palladium on carbon (5.00 g) and tetrahydrofuran (200 mL) was stirred under a hydrogen atmosphere at room temperature for 3 hrs. After removing palladium on carbon by filtration, the filtrate was concentrated. The obtained crystals were collected by filtration to give 5-[2-(4-hydroxyphenyl)ethyl]-4-methoxymethoxymethyl-2-phenyl-1,3-oxazole (3.24 g, yield 79%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 102-103° C.

reactant | 4-methoxymethoxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde | 3.00 g | COCOCC=1N=C(OC1C=O)C1=CC=CC=C1 | C13H13NO4
reactant | 4-benzyloxybenzyltriphenylphosphonium chloride | 6.58 g | [Cl-].C(C1=CC=CC=C1)OC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | potassium carbonate | 1.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[2-(4-hydroxyphenyl)ethyl]-4-methoxymethoxymethyl-2-phenyl-1,3-oxazole | 3.24 g, yield 79% | OC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)COCOC | C20H21NO4
